US08202877B2
N-[4-Cyclopropylamino-6-(2,4-dichlorophenyl)pyrimidin-5-yl]-2-ethylnicotinamide
In a test tube which had been dried by heating and preheated to 100° C., the degassed diluent mixture dioxane (2 ml)/water (0.7 ml) was added to N-(4-chloro-6-cyclopropylaminopyrimidin-5-yl)-2-ethylnicotinamide (0.41 mmol), sodium carbonate (3 eq) and 2,4-dichlorophenylboronic acid (2 eq). 5 mol % of tetrakis(triphenylphosphine)palladium(0) were added, and the reaction mixture was stirred at 90° C. for 3 hours. The mixture was then diluted with water and extracted 3× with methylene chloride, and the combined organic phases were washed with aqueous NaHCO3 solution, dried 20 over Na2SO4, filtered and concentrated under reduced pressure.

reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | N-(4-chloro-6-cyclopropylaminopyrimidin-5-yl)-2-ethylnicotinamide | 0.41 mmol | ClC1=NC=NC(=C1NC(C1=C(N=CC=C1)CC)=O)NC1CC1 | C15H16ClN5O
reactant | sodium carbonate | 3 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4-dichlorophenylboronic acid | 2 eq | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.7 ml | O | H2O
product | N-[4-Cyclopropylamino-6-(2,4-dichlorophenyl)pyrimidin-5-yl]-2-ethylnicotinamide | C1(CC1)NC1=NC=NC(=C1NC(C1=C(N=CC=C1)CC)=O)C1=C(C=C(C=C1)Cl)Cl | C21H19Cl2N5O
